US04307230
A solution of diphenyldiazomethane (12.3 g) in acetonitrile (200 cc) is added, in the course of 15 minutes, to a suspension of a mixture (28.8 g) of 2-carboxy-3-methyl-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (40%) and its oct-3-ene isomer (60%) in acetonitrile (500 cc), and the reaction mixture is then stirred for 2 hours at 25° C. The solvent is evaporated under reduced pressure (40 mm Hg) at 30° C. and the oily residue is redissolved in ethyl acetate (500 cc). The solution is washed successively with normal hydrochloric acid (until colourless), with a saturated sodium bicarbonate solution (3×100 cc), with water (100 cc) and with a saturated sodium chloride solution (100 cc), and is then dried and concentrated to dryness, to give a mixture (35.4 g) of 2-benzhydryloxycarbonyl-3-methyl-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (40%) and its oct-3-ene isomer (60%), in the form of a cream-coloured froth.

reactant | diphenyldiazomethane | 12.3 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 2-carboxy-3-methyl-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 28.8 g | C(=O)(O)C=1N2C(C(C2SCC1C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H24N2O3S
reactant | oct-3-ene | CCC=CCCCC | C8H16
solvent | acetonitrile | 200 cc | C(C)#N | C2H3N
solvent | acetonitrile | 500 cc | C(C)#N | C2H3N
product | 2-benzhydryloxycarbonyl-3-methyl-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 35.4 g, 40% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H34N2O3S
